US07407649B2
To a solution of 4-bromo-2-methylphenol (1.5 g, 8.02 mmol) in THF (16 mL) at −78° C. was added n-butyl lithium (12.5 mL, 1.6 M solution in hexanes, 20.05 mmol) and the reaction was stirred at this temperature for 30 minutes. Trimethylsilyl chloride (2.5 mL, 20.05 mmol) was then added and the resulting mixture was stirred at −78° C. for a further 1.5 hours. The reaction was allowed to warm to room temperature and saturated ammonium chloride solution (10 mL) was added. The mixture was extracted with diethyl ether (2×20 mL) and the combined organic extracts were dried (magnesium sulphate) and concentrated under reduced pressure to give the intermediate 2-methyl-4-(trimethylsilyl)phenoxytrimethylsilane as a pale yellow oil (1.6 g). This intermediate was then diluted with THF (3 mL) and treated with TBAF (6.3 mL, 1.0 M solution in THF, 6.33 mmol) at room temperature. The reaction was stirred at this temperature for 5 minutes and poured into water (10 mL). The aqueous portion was then extracted with ether (3×5 mL) and the combined organic extracts were washed (saturated brine), dried (magnesium sulphate) and concentrated under reduced pressure. The resulting oily residue was pre-adsorbed onto silica and the 2-methyl-4-(trimethylsilyl)phenol isolated by column chromatography (SiO2; light petroleum to 7:3 light petroleum-diethyl ether) as a pale yellow oil (0.78 g, 68%). Rf=0.65 (7:3 light petroleum-diethyl ether, silica). 1H NMR (DMSO-d6): δH 0.17 (9 H, s), 2.1 (3 H, s), 6.77 (1 H, d, J=7.8 Hz), 7.12 (1 H, d, J=7.8 Hz), 7.17 (1 H, s), 9.36 (1 H, s).

reactant | 4-bromo-2-methylphenol | 8.02 mmol, 1.5 g | BrC1=CC(=C(C=C1)O)C | C7H7BrO
reactant | n-butyl lithium | 20.05 mmol, 1.6 M, 12.5 mL | C(CCC)[Li]
reactant | Trimethylsilyl chloride | 20.05 mmol, 2.5 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | ammonium chloride | 10 mL | [Cl-].[NH4+]
solvent | THF | 16 mL | C1CCOC1 | C4H8O
product | 2-methyl-4-(trimethylsilyl)phenoxytrimethylsilane | 1.6 g | CC1=C(O[Si](C)(C)C)C=CC(=C1)[Si](C)(C)C | C13H24OSi2
